US04859662
7-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one
A mixture of glacial acetic acid (25 ml), 3-(3-fluorophenylhydrazono)-1-cyclohexen-1-ol (1.1 g) and fused zinc chloride (1.0 g) was heated at 100° for 20 h. The cooled reaction mixture was poured into water (35 ml) and extracted with dichloromethane (2×30 ml). The combined, dried organic extracts were evaporated to give an oil which was purified by SPCC eluting with ethyl acetate:hexane (3:2) to give the title compound (0.15 g) as a powder, m.p. 231°-233°.

reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | 3-(3-fluorophenylhydrazono)-1-cyclohexen-1-ol | 1.1 g | FC=1C=C(C=CC1)NN=C1C=C(CCC1)O | C12H13FN2O
solvent | water | 35 ml | O | H2O
product | 7-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.15 g | FC1=CC=C2C=3C(CCCC3NC2=C1)=O | C12H10FNO
